US08703797B2
N-(3,5-Dichlorophenyl)-2-(4,8-dimethylquinolin-2-yl)hydrazinecarboxamide:
A solution of 2-hydrazinyl-4,8-dimethylquinoline (100 mg, 0.53 mmol) and 100 mg (1.0 eq) of 1,3-dichloro-5-isocyanatobenzene was reacted as outlined in Scheme 1 above to give the desired title compound. Spectroscopic data: 1H NMR (300 MHz, DMSO-d6) δ ppm 2.51 (s, 3 H) 2.55 (s, 3 H) 6.77-6.80 (m, 1 H) 7.09 (t, J=1.76 Hz, 1 H) 7.17 (dd, J=8.20, 7.03 Hz, 1 H) 7.40 (d, J=6.74 Hz, 1 H) 7.65-7.72 (m, 3 H) 8.40 (br. s., 1 H) 8.62 (s, 1 H) 9.25 (br. s., 1 H).

reactant | 2-hydrazinyl-4,8-dimethylquinoline | 0.53 mmol, 100 mg | N(N)C1=NC2=C(C=CC=C2C(=C1)C)C | C11H13N3
reactant | 1,3-dichloro-5-isocyanatobenzene | 100 mg, 1.0 eq | ClC1=CC(=CC(=C1)N=C=O)Cl | C7H3Cl2NO
product | N-(3,5-Dichlorophenyl)-2-(4,8-dimethylquinolin-2-yl)hydrazinecarboxamide | ClC=1C=C(C=C(C1)Cl)NC(=O)NNC1=NC2=C(C=CC=C2C(=C1)C)C | C18H16Cl2N4O
